Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin in D5W
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
Intubation

 
History of Present Illness:
Ms. ___ is an ___ yo female with a pmh history significant 
for diabetes, hypertension, and depression who was seen at her 
PCPs office with a week of worsening symptoms concerning for 
pneumonia. Her symptoms have been cough, dyspnea with orthopnea, 
causing difficulty sleeping.

She has been using a metered-dose inhaler, that has not shown 
any benefit partially because she is unable to use it properly. 
She has been diaphoretic though no temperature has been 
recorded/taken. 

She appeared ill at her PCPs office, seen by Dr. ___ 
she was sent to ___ ED for further evaluation. 

In the ED, initial vitals: 98.7 70 185/74 34 90% RA. She was 
given ipatriprium and albuterol nebs, 20mg prednisone, trop was 
negative, BNP negative. Chem 7 unremarkable. EKG with NSR at 67, 
NA/NI, no ST. twave changes. CXR with diffuse interstitial 
markings.  Lactate 1.7. Vitals prior to transfer: T 97.7 F, HR 
66, RR 22, BP 122/81, O2 Sat 99% O2 Flow 2LNC

Currently, she feels improved from prior to admission. This has 
evolved over the past several days. 
  
ROS: per HPI, otherwise negative. 
 
Past Medical History:
- Hypertension
- Obesity
- Diabetes type 2
- diabetic neuropathy
- History of paroxysmal atrial fibrillation (during pneumonia, 
no coumadin)
- History of pneumonia   
- stress incontinence
- History of gastritis possibly from NSAIDs and ASA
- R Eye Blindness
- Osteoarthritis
- Depression 
- L eye cataract surgery

 
Social History:
___
Family History:
- DMT2 in both of her daughters
- one sister has CAD s/p MI and CABG
 
Physical Exam:
Admission Exam:
VS - Temp 98.4F, BP 151/70, HR 75, R 20, O2-sat 94% 2L  
GENERAL - NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, no JVD
HEART - PMI non-displaced, RRR, nl S1-S2, diminished heart 
sounds
LUNGS - diffuse rhonchi and wheezing throughoutk, resp 
unlabored, no accessory muscle use  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, 2+ pitting edema, 2+ peripheral pulses 
SKIN - no rashes or lesions
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, cerebellar exam intact, steady gait  

Discharge Exam:
GEN - awake, alert, NAD, oriented to person, place and date
HEENT - NC/AT, MMM
PULM - clear to auscultation with good air movement and overall 
improving
CV - RRR, S1/S2, no m/r/g
ABD - +BS, soft, NT/ND, no guarding or rebound 
EXT - WWP, trace edema
 
Pertinent Results:
Admission Labs:
___ 03:40PM BLOOD WBC-4.8 RBC-3.97* Hgb-12.3 Hct-37.7 
MCV-95 MCH-30.9 MCHC-32.6 RDW-13.9 Plt ___
___ 03:40PM BLOOD Neuts-65.5 ___ Monos-6.9 Eos-4.1* 
Baso-0.5
___ 06:05PM BLOOD Na-140 K-4.5 Cl-102
___ 03:40PM BLOOD Glucose-279* UreaN-20 Creat-0.9 Na-139 
K-5.4* Cl-99 HCO3-29 AnGap-16
___ 03:40PM BLOOD cTropnT-<0.01
___ 03:40PM BLOOD proBNP-493
___ 03:49PM BLOOD ___ pO2-60* pCO2-60* pH-7.35 
calTCO2-35* Base XS-4 Comment-GREEN TOP 
___ 03:49PM BLOOD Lactate-1.7

Studies:
CXR ___: IMPRESSION: Pulmonary edema.

ECHO ___: The left atrium is mildly dilated. No atrial septal 
defect is seen by 2D or color Doppler. There is mild symmetric 
left ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). There is no 
ventricular septal defect. The right ventricular cavity is 
mildly dilated with normal free wall contractility. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen. 
The tricuspid valve leaflets are mildly thickened. Moderate [2+] 
tricuspid regurgitation is seen. There is moderate pulmonary 
artery systolic hypertension. There is an anterior space which 
most likely represents a prominent fat pad. 
Compared with the prior study (images reviewed) of ___, no 
major change.  

CXR ___: FINDINGS:  In comparison with the study of ___, the 
cardiac silhouette remains enlarged and there is again 
indistinctness of mildly engorged pulmonary vessels consistent 
with elevated pulmonary venous pressure.  No definite acute 
focal pneumonia. 

CXR ___: FINDINGS:  In comparison with the study of earlier in 
this date, there is respiratory motion which degrades the image. 
 Continued enlargement of the cardiac silhouette with evidence 
of elevated pulmonary venous pressure.  Poor definition of the 
hemidiaphragms could reflect some pleural effusions and 
compressive atelectasis.  No gross evidence of pneumonia or 
pneumothorax. 

CXR ___: FINDINGS:  In comparison with the earlier study of 
this date, there is an endotracheal tube with its tip at the 
clavicular level, approximately 4.5 cm above the carina.  The 
degree of engorgement of pulmonary vessels is less than on the 
earlier study.  Atelectatic changes with a small effusion again 
seen on the left. 

CT Head w/out contrast ___: IMPRESSION: 1.  No acute 
intracranial abnormality. 2.  Pansinus inflammatory disease with 
high density material in left frontal sinus.  Some of these 
findings may be related to intubation. 

EEG ___: IMPRESSION: This is an abnormal waking EEG because of 
frontally predominant background activity with diffuse slowing. 
These findings are indicative of mild to moderate encephalopathy 
of non-specific etiology. The frontal predominant background 
activity could be due to sedation effects, e.g. benzodiazepines. 


CXR ___: Since the prior chest x-ray of ___, there has been an 
apparent increase in the cardiac size and an increase in the 
vascular markings, particularly in the perihilar regions 
suggesting worsening interstitial failure. IMPRESSION:  
Worsening interstitial failure. 

CXR ___: PRELIMINARY REPORT: Comparison is made with prior 
study, ___. Moderate cardiomegaly is accentuated by the 
projection and low lung volumes. The aorta is tortuous and there 
is no evidence of volume overload in the current study. There is 
no pneumothorax or pleural effusion.

Discharge Labs:
___ 07:15AM BLOOD WBC-8.6 RBC-4.02* Hgb-12.0 Hct-38.6 
MCV-96 MCH-29.9 MCHC-31.1 RDW-13.9 Plt ___
___ 07:15AM BLOOD Glucose-111* UreaN-40* Creat-1.0 Na-144 
K-4.0 Cl-100 HCO3-36* AnGap-12
___ 07:15AM BLOOD Calcium-9.3 Phos-3.1 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is an ___ yo female with a pmh history significant 
for diabetes, hypertension, and depression who was seen at her 
___ office with a week of worsening symptoms of shortness of 
breath. 
  
Active issues: 
#VIRAL PNEUMONIA: The overall story and clinical picture was 
felt to be concerning for heart failure. That said her BNP was 
wnl. There was no focal consolidations on her CXR, it is 
consistent with pulm edema. Influenza was ruled out with a 
negative flu swab. Other concerns include cardiac etiology, such 
as a missed event in this diabetic patient with a week of 
worsening symptoms, though her EKG is without signs of q-waves 
and trop is negative. Additional significant wheezing on exam 
was suggestive of possible bronchitis vs COPD like picture 
though she has never been formally diagnosed. She was diureses 
with IV lasix with some improvement. This was limited by both 
hypotension and acute renal failure.  ECHO was without evidence 
of systolic dysfunction.  She was also given nebulizer 
treatments. The patient initially improved and O2 was weaned. 
However on ___ shortness of breath became acutely worse 
with increasing O2 requirement.  CXR was unchanged.  She became 
increasingly less responsive over the course of the day. Vanc 
and zosyn were started for empiric coverage of a possible HAP.  
ABG demonstrated hypercarbia and she was intubated and 
transferred to the MICU. In the ICU the patient was treated for 
COPD exacerbation with steroids (though no documented history of 
COPD and is not a current/former smoker), she was treated for 
HCAP initially. She did very well and was extubated on ___ 
with improvement in her pCO2 to the ___ which appears to be 
patients baseline.  The ICU team suspects a component of obesity 
hyperventilation syndrome and OSA though this has never been 
formally diagnosed in the patient. CXR in the ICU showed no PNA 
but did show a possible interstitial process which would be 
consistent with a viral PNA. The patient has responded well to 
albuterol/ipratropium nebs. Antibiotics for HCAP were 
discontinued ___ with no change in patient's respiratory status. 
She completed a 5 day course of azithromycin. Steroids were 
tapered over a 9 day course (3 days remaining at time of 
discharge).

# HYPERCARBIC RESPIRATORY FAILURE: As above, she was intubated 
on the floor on ___ with profound ventilatory 
decompensation with a pH of 7.14 and pC02 104 after developing 
somnolence and encephalopathy earlier that morning.  CXR showed 
initially some increased interstitial marking, prompting concern 
for aspiration event (thick secretions were suctioned at the 
time of intubation), so vancomycin and zosyn were continued, in 
addition to azithromycin for atypical coverage.  She was given 
steroids as well due to wheezing  on exam. The cause of her 
decompensation remains somewhat unclear- the elevated 
bicarbonate and elevated venous pC02 on admission suggest a 
chronic hypoventilatory/hypoxemic disorder, and due to a lack of 
primary and secondary cigarette smoke exposure we suspect 
OSA/obesity hypoventilation syndrome particularly given her 
habitus.  We suspect that she began to retain C02 on the floor 
in her sleep due to hypoventilation which fed an encephalopathy 
possibly worsened by an aspiration event versus some pulmonary 
edema, which in turn suppressed her respiratory drive further. 
Her gas normalized quickly on CMV, though early trials of 
pressure support failed due to a complete lack of a respiratory 
drive.   As her encephalopathy waned, her respiratory drive 
improved. Due to a finding of some interstitial infiltrates on 
CXR, she was diuresed.  She was extubated successfully on ___ 
with in-tact mental status.  We stopped vancomycin and zosyn on 
___ due to lack of fevers or imaging evidence of pneumonia.  
Azithromycin was continued for a 5d course, and her steroids 
were tapered over 9 days (3 days left at discharge).  

# ___- Creatinine increased from a baseline of 0.9 to a peak of 
2.3. Urine lytes were consistent with pre-renal etiology.  She 
was given gentle hydration, diuretics, lisinopril and gabapentin 
were held. Cr had improved to baseline of 1.0 at time of 
discharge. 

# Altered Mental Status- The patient was noted by family to be 
confused on HD 3.  Infectious work-up including CXR, UA and 
blood cultures were unremarkable. She remained afebrile with a 
normal WBC, O2 saturation was initially stable. Electrolytes 
were normal with the exception of an elevated BUN and 
Creatinine. Symptoms were initially attributed to uremia in 
addition to a component of hospital induced delirium. However an 
ABG was done when her pulmonary status decompensated and as abve 
was notable for elevated CO2 suggesting CO2 narcosis. She was 
successfully extubated in the ICU and noted to still be altered. 
Over the course of the next 2 days after transfer to the floor 
her mental status markedly improved. At discharge she was AxOx3 
and interacting entirely appropriately and back to her 
baseline/normal mental status. 

# Hypotension- The patient was noted to be transiently 
hypotensive to the ___ on HD3.  She was afebrile.  BP improved 
with administration of fluids and remained stable. Her 
anti-hypertensives were held. As above infectious work-up was 
unremarkable. Her antihypertensives were restarted prior to 
discharge without event. 
 
# ?OSA: Patient sleepy during the day and per daughter has 
episodes of apnea. Supported by body habitus and likely chronic 
pCO2 in the ___. Patient maintained on O2 NC with goal sat 
90-95%. Will be set up with outpatient sleep medicine on 
discharge. 

Chronic issues: 
# Diabetes: On lantus and novolog at home as well as Actos. 
Actos was held and she was continued on lantus and HISS.

# Depression: Continued home mirtazipine

# HLD: Continued home simvastatin

Transitional issues: 
[ ]Needs follow-up with sleep medicine/pulmonary for likely 
undiagnosed OSA / obesity hyperventilation syndrome, may also 
need outpatient PFTs.
[ ] goal O2 sat 90-94, wean supplemental o2 as tolerates
[ ] if worse wheezing on exam after completes steroid ___ 
need longer steroid taper
-HCP/daughter ___ ___ or 
___ alternate/daughter ___ ___
-Rehab stay is expected to be less than 30 days.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 15 mg PO HS 
2. Gabapentin 300 mg PO TID 
3. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
4. Albuterol-Ipratropium ___ PUFF IH Q6H:PRN sob/wheeze 
5. Hydrochlorothiazide 12.5 mg PO DAILY 
Hold for SBP <100 
6. Lisinopril 30 mg PO DAILY 
hold for SBP <100 
7. Nadolol 20 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Simethicone 80 mg PO TID:PRN w/meals 
10. Simvastatin 10 mg PO DAILY 
11. Glargine 26 Units Bedtime
Insulin SC Sliding Scale using Novolin Insulin
12. Pioglitazone 15 mg PO DAILY 

 
Discharge Medications:
1. Nebulizer machine
ICD-9 508.8

2. Docusate Sodium 100 mg PO BID 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
Hold for SBP <100 
4. Glargine 25 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
5. Lisinopril 30 mg PO DAILY 
hold for SBP <100 
6. Mirtazapine 15 mg PO HS 
7. Nadolol 20 mg PO DAILY 
8. Simethicone 80 mg PO TID:PRN w/meals 
9. Simvastatin 10 mg PO DAILY 
10. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing 
11. Benzonatate 100 mg PO TID:PRN cough 
12. Guaifenesin ___ mL PO Q6H:PRN cough 
13. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN wheeze 
14. Polyethylene Glycol 17 g PO DAILY 
15. PredniSONE 20 mg PO DAILY Duration: 1 Doses 
Received dose today ___.
2nd dose ___. 
16. PredniSONE 10 mg PO DAILY Duration: 2 Doses 
Give one dose on ___ and one dose on ___. Then stop. 
17. Senna 2 TAB PO HS 
18. Pioglitazone 15 mg PO DAILY 
19. Gabapentin 300 mg PO TID 
20. Incentive spirometer
Please provide patient with incentive spirometer and educate on 
use. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Viral pneumonia
Obstructive Sleep Apnea
Reactive Airway Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___,

You were admitted with a cough. We initially thought you had a 
bacterial pneumonia and treated you with antiobiotics. While you 
were in the hospital, your breathing declined and you were 
intubated and had to be in the intensive care unit. We gave you 
steroids and antibotics and you were extubated without 
complication and able to moved out of the ICU.  You completed a 
course of antibiotics and we are tapering you off of steroids. 
We believe that you may have had a viral pneumonia.  There is no 
treatment for these viruses but we gave you medication to help 
with the cough and the steroids will help decrease the 
inflammation and swelling in your lungs. You may continue to 
cough for several weeks before you return to your baseline.  
 
Followup Instructions:
___